* C:\Users\devaw\Documents\UMN\2025-2026\Junior_Design\Electrocardiogram-Design-Project\SPICE\AD8422_WITH_RLD.asc
Vright nVright N002 SINE(2m 0.5m 1)
Vleft N002 nVleft SINE(2m 0.5m 1)
V1 nVDD nVref 1.65V
V2 0 nVSS 3.3
X§U2 nVleft nVCM_HI nVCM_LOW nVright nVSS 0 nStageOneOut nVDD AD8422
R_gain nVCM_HI nVCM_LOW 4.42k
R_load nFilterOut nVref 510k
C1 nStageOneOut nFilterOut 10µF
X§U1 nFilterOut N001 nVDD nVSS nStageTwoOut ADA4522-1
R1 nStageTwoOut N001 100k
R2 N001 nVref 1k
V3 nVref 0 1.65
R3 nVCM_HI N003 2.21k
R4 N003 nVCM_LOW 2.21k
X§U3 0 N003 nVDD nVSS N004 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R5 N004 N003 1Meg
Vbody N002 nRLD_out SINE(0 0.3 0.1)
R6 N004 nRLD_out 1k
* Gain set to 20V/V
.tran 0 20 0 10m
* op amp gain stage
* Gain set to 100V/V
* instrumentation amplifier
* Supply rails
* Voltage input from body
* High Pass Filter ~0.03Hz
* Right Leg Drive (RLD) Circuit
.lib AD8422.sub
.lib ADA4522-1.lib
.lib UniversalOpAmp1.lib
.backanno
.end
