* C:\Users\devaw\Documents\UMN\2025-2026\Junior_Design\Electrocardiogram-Design-Project\SPICE\AD8422_WITH_RLD.asc
Vright nVright N003 SINE(2m 0.5m 1)
Vleft N003 nVleft SINE(2m 0.5m 1)
V1 nVDD nVref 1.65V
V2 0 nVSS 3.3
X§U2 nVleft N001 N004 nVright nVSS 0 nStageOneOut nVDD AD8422
R_gain N001 N004 4.42k
R_filter nFilterOut nVref 510k
C1 nStageOneOut nFilterOut 10µF
X§U1 nFilterOut N002 nVDD nVSS nStageTwoOut ADA4522-1
R1 nStageTwoOut N002 100k
R2 N002 nVref 1k
V3 nVref 0 1.65
R3 N001 nVCM 2.21k
R4 nVCM N004 2.21k
X§U3 0 nVCM nVDD nVSS N005 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R5 N005 nVCM 1Meg
Vbody N003 nRLD_out SINE(0 0.0 0.1)
R6 N005 nRLD_out 1k
* Gain set to 10V/V
.tran 0 20 0 10m
* op amp gain stage
* Gain set to 100V/V
* instrumentation amplifier
* Supply rails
* Voltage input from body
* High Pass Filter ~0.03Hz
* Right Leg Drive (RLD) Circuit
.lib AD8422.sub
.lib ADA4522-1.lib
.lib UniversalOpAmp1.lib
.backanno
.end
